US04406690
The compound, 2-amino-5-(4-chlorobenzyloxy)pyridine is reacted with 3,4,5,6-tetrahydrophthalic anhydride using the procedure of Example 1 to yield N-[5-(4-chlorobenzyloxy)-2-pyridyl]-3,4,5,6-tetrahydrophthalimide.

reactant | 2-amino-5-(4-chlorobenzyloxy)pyridine | NC1=NC=C(C=C1)OCC1=CC=C(C=C1)Cl | C12H11ClN2O
reactant | 3,4,5,6-tetrahydrophthalic anhydride | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
product | N-[5-(4-chlorobenzyloxy)-2-pyridyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC=C(COC=2C=CC(=NC2)N2C(C3=C(C2=O)CCCC3)=O)C=C1 | C20H17ClN2O3
